US07067517B2
4-(5-Chloro-thiophen-2-ylmethyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The hydrochloride of the title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-(5-chloro-thiophen-2-ylmethyl)-piperazine, yield 48%. White crystals, m.p. 225–226° C. (from EtOH); 1H NMR (DMSO-d6): δ 12.00 (br, 1H), 8.60–8.55 (1H), 8.27–8.21 (dd-like, 1H), 7.33–7.20 (m, 6H), 7.20–7.15 (d, 1H), 4.55 (br s, 2H), 4.40–4.00 (br, 2H), 3.74–3.27 (br, 4H+H2O); 3.27–2.97 (br, 2H); IR (KBr): ν 1723 (C═O) cm−1.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-(5-chloro-thiophen-2-ylmethyl)-piperazine | ClC1=CC=C(S1)CN1CCNCC1 | C9H13ClN2S
reactant | KBr | [K+].[Br-]
solvent | EtOH | CCO | C2H6O
product | 4-(5-Chloro-thiophen-2-ylmethyl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC=1SC(=CC1)Cl)(F)F | C22H19ClF3N3O3S
